data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03901.json
{"doi": "10.1021_acs.orglett.3c03901", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical fluorination-difunctionalization of gem-difluoroalkenes with CsF and nucleophiles (alcohols, azoles) to deliver trifluoromethylated/fluoroazolation products", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the gem-difluoroalkene substrate (oxidation onset 0.80 V vs SCE) initiates the transformation; fluoride/nucleophile addition and further oxidation generate cationic intermediates trapped by F- and nucleophile", "key_intermediates": [{"name": "gem-difluoroalkene radical cation (from anodic SET on 1a)", "smiles": null, "role": "reactive"}, {"name": "benzyl radical (after fluoride addition to radical cation)", "smiles": null, "role": "transient"}, {"name": "benzyl cation (after second anodic oxidation) trapped by nucleophile", "smiles": null, "role": "reactive"}, {"name": "oxidative gem-difluoroolefin intermediate (probed but not required)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes the gem-difluoroalkene (1a) to a radical cation; fluoride (from CsF) adds to give a benzylic radical, which is further oxidized at the anode to a benzylic cation that is trapped by the nucleophile (alcohol or azole) to install the second functional group.", "rate_determining_step": null, "probe_reagents": [{"name": "4-vinylbiphenyl (5, normal alkene control)", "smiles": "C=Cc1ccc(-c2ccccc2)cc1", "purpose": "other", "observation": "No difluorination product 6 formed under standard conditions (2.0-3.5 V), indicating non-fluorinated alkenes are unreactive and the gem-difluoroalkene functionality is essential"}, {"name": "constant anode potential control (0.70 V and 0.90 V vs SCE on 1a)", "smiles": null, "purpose": "redox_probe", "observation": "At 0.70 V no product 2a formed; at 0.90 V 12% yield of 2a, supporting that anodic oxidation of the gem-difluoroalkene is required to initiate the reaction"}, {"name": "O2 (radical trapping under O2 atmosphere)", "smiles": "O=O", "purpose": "radical_trap", "observation": "Ketone 7 (MW 250.2, ArC(O)CF3) detected by GC-MS, indicating a benzyl radical intermediate from 1a is involved"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "redox_probe", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors also probed whether an oxidative gem-difluoroolefin (overoxidized alkene) intermediate forms (Scheme 2b) — control experiments instead supported direct anodic oxidation of the gem-difluoroalkene. Full proposed pathway is given in Figure S3 (SI). A radiofluorination variant with K[18F]F-kryptofix was demonstrated (5% RCY), consistent with the same mechanism."}
